* C:\IMR_Projects\IMR\Arb_Power_Booster\Simulate\Current Amp-IC-Form-Single.asc
XU1 N003 N003 N003 N004 -VS 0 -VS 0 NC_01 VS+ VS+ OPA549
R1 VO 0 20
C1 NC_02 0 100µF
V1 N001 0 -15V
V2 N002 0 15V
V3 VIN 0 SINE(10 1 5K .001 0 0 10)
R2 VO N005 10
C2 N005 0 .01µF
R3 VO N003 .001
R5 -VS N001 .001
R6 VS+ N002 .001
R7 N004 0 10K
V4 N004 0 10
.tran .003
.lib OPA549.LIB
.backanno
.end
