* C:\IMR_Projects\IMR\Arb_Power_Booster\Simulate\Current Amp-IC-Form-Single.asc
XU1 N001 N001 N001 VIN -VS 0 -VS 0 NC_01 VS+ VS+ OPA549
R1 VO 0 5
C1 VO 0 300µF
V1 -VS 0 -15V
V2 VS+ 0 15V
V3 VIN 0 SINE(9.5 .5 800 .001 0 0 10)
R2 NC_02 N002 10
C2 N002 0 .01µF
R3 VO N001 .0065
R7 VIN 0 10K
V4 NC_03 0 10
.tran .003
.lib OPA549.LIB
.backanno
.end
